US04472433
A mixture of iron powder (2.7 g.), ammonium chloride (0.3 g.), ethanol (20 ml.) and water (10 ml.) and a solution of 1-[2-{2-nitro-3-(2-fluorophenoxy)phenyl}acetyl]-4-hydroxypiperidine (2.7 g.) in ethanol (5 ml.) were treated in a similar manner to that of Example 1-(1) to give oily 1-[2-{2-amino-3-(2-fluorophenoxy)phenyl}acetyl]-4-hydroxypiperidine (2.5 g.). Thus obtained compound was dissolved in ethanol containing hydrochloric acid and evaporated under reduced pressure. The residue was crystallized with a mixture of ethanol and ethyl acetate to give white needles of the captioned compound (2 g.). mp 160° to 161° C.

reactant | ammonium chloride | 0.3 g | [Cl-].[NH4+]
reactant | water | 10 ml | O | H2O
reactant | 1-[2-{2-nitro-3-(2-fluorophenoxy)phenyl}acetyl]-4-hydroxypiperidine | 2.7 g | [N+](=O)([O-])C1=C(C=CC=C1OC1=C(C=CC=C1)F)CC(=O)N1CCC(CC1)O | C19H19FN2O5
solvent | ethanol | 5 ml | C(C)O | C2H6O
catalyst | iron | 2.7 g | [Fe] | Fe
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 1-[2-{2-amino-3-(2-fluorophenoxy)phenyl}acetyl]-4-hydroxypiperidine | 2.5 g | NC1=C(C=CC=C1OC1=C(C=CC=C1)F)CC(=O)N1CCC(CC1)O | C19H21FN2O3
